US04075230
The process according to claim 7 wherein (+)-apoverbenone is reacted with about an equimolar quantity of 5-(1,1-dimethylheptyl)resorcinol in dichloromethane in the presence of about an equimolar quantity of aluminum chloride at a temperature of from about -10° C. to about 30° C. for a period of time of from about 48 to about 96 hours to form (-)-trans-1-hydroxy-3-(1,1-dimethylheptyl)-6,6-dimethyl-6,6a,7,8,10,10a-hexahydro-9H-dibenzo[b,d]-pyran-9-one.

reactant | (+)-apoverbenone | CC1([C@@H]2C[C@H]1C(=O)C=C2)C | C9H12O
reactant | 5-(1,1-dimethylheptyl)resorcinol | CC(CCCCCC)(C)C=1C=C(C=C(O)C1)O | C15H24O2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (-)-trans-1-hydroxy-3-(1,1-dimethylheptyl)-6,6-dimethyl-6,6a,7,8,10,10a-hexahydro-9H-dibenzo[b,d]-pyran-9-one | OC1=CC(=CC=2OC([C@H]3[C@H](C21)CC(CC3)=O)(C)C)C(CCCCCC)(C)C | C24H36O3
